US07759379B2
3-[3,3-Dimethyl-1-(pyridine-2-sulphonyl)-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione
100 mg (0.27 mmol) of 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione were initially charged in 1 ml of pyridine, and 88 mg (0.41 mmol) of 2-pyridylsulphonyl chloride hydrochloride were added. For workup, the mixture was concentrated fully and the residue purified by flash chromatography (100 g of silica gel/95:5 CH2Cl1:CH30H).

reactant | 3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | 0.27 mmol, 100 mg | CC1(CNC2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O)C | C21H24N4O2
reactant | 2-pyridylsulphonyl chloride hydrochloride | 0.41 mmol, 88 mg | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 3-[3,3-Dimethyl-1-(pyridine-2-sulphonyl)-2,3-dihydro-1H-indol-6-yl]-5,5-dimethyl-1-pyridin-4-ylmethylimidazolidine-2,4-dione | CC1(CN(C2=CC(=CC=C12)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O)S(=O)(=O)C1=NC=CC=C1)C | C26H27N5O4S
